2127-03-08 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2127-3-7**] 09:00 AM
   MRSA swab on admission
 ARTERIAL LINE - START [**2127-3-7**] 11:57 AM
 MULTI LUMEN - START [**2127-3-7**] 07:05 PM
 FEVER - 102.1
F - [**2127-3-7**] 05:00 PM
   - hypotensive all day, aline placed getting NS boluses, dipped into low
   70s persistently in PM -->started peripheral levophed, placed RIJ
   - only required levophed for ~2 hours.  IVF x 3.5 L over the day.
   Lactate normalized.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsMercury
   Ammoniated
   Unknown;
   Shellfish
   Hives;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2127-3-7**] 06:00 PM
   Vancomycin - [**2127-3-7**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2127-3-7**] 06:45 PM
   Heparin Sodium (Prophylaxis) - [**2127-3-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-3-8**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.3
C (99.1
   HR: 97 (85 - 109) bpm
   BP: 137/56(85) {78/38(52) - 144/64(93)} mmHg
   RR: 21 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,876 mL
                                                                     63 mL
   PO:
                                                                    680 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  4,196 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                  1,559 mL
                                                                    760 mL
   Urine:
                                                                  1,259 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,317 mL
                                                                   -698 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.38/36/82.[**Numeric Identifier **]/20/-2
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   205 K/uL
   10.0 g/dL
   102 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.5 mEq/L
   14 mg/dL
   110 mEq/L
   137 mEq/L
   30.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2127-3-7**]  01:03 PM
                             [**2127-3-7**]  05:27 PM
                             [**2127-3-8**]  04:22 AM
                             [**2127-3-8**]  04:38 AM
   WBC
   6.9
   5.8
   Hct
   27.8
   30.1
   Plt
   215
   205
   Cr
   1.0
   1.0
   TropT
   <0.01
   TCO2
   22
   Glucose
   99
   102
   Other labs: CK / CKMB / Troponin-T:158/4/<0.01, Amylase / Lipase:/854,
   Lactic Acid:0.7 mmol/L, Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR: Distal tip of R IJ central line terminates in upper to
   mid-SVC. No ptx.
   Increased left basilar and retrocardiac opacity may indicate developing
   infection.
   Microbiology: BCx pending
   Cdiff negative
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPOTENSION (NOT SHOCK)
   [**Age over 90 **]-year-old woman with history of Alzheimer's, OA, osteopenia, prior C.
   diff infection presented from home with multiple episodes of nausea,
   vomiting, loose stools, syncope.
   .
   # Nausea, vomiting: DDx include viral gastroenteritis, C. diff colitis
   (history), pancreatitis (elevated lipase), pneumonia (coughs and
   suspicious imaging). Unlikely to be cardiac with unremarkable CEs and
   ECG. No urinary complaint and u/a unremarkable, making UTI unlikely.
   - IVF
   - sputum cx
   - f/u blood cx, urine cx
   - treat possible pna as below - check C. diff toxin; no treatment yet
   - keep NPO except meds
   - f/u final imaging study reports
   .
   # Syncope: with prodromal symptoms, making arrhythmias less likely.
   Likely from vomiting leading to hypovolemia leading to CNS
   hypoperfusion.
   - treat possible underlying pathologies as above
   - check echocardiogram
   - keep on telemetry
   - trend cardiac enzymes
   .
   # Possible pna: CAP or aspiration. ?Aspiration on chest imaging
   studies.
   - levoflox for now
   - prophylatic PO vancomycin as given in the past with antibiotics
   - if clinical deteriorates, will broaden antibiotics and add anaerobe
   coverage
   # Acute kidney injury: Cr. 1.3, baseline likely 1.0-1.1. Most likely
   from dehydration.
   - IVF
   - trend renal labs
   .
   # Elevated lipase: ?pancreatitis (although CT showed no clear evidence
   of inflammation) vs. secondary to nausea, vomiting.
   - IVF
   - trend lipase
   .
   # Elevated lactate: hypoperfusion in the setting of vomiting,
   ?infection.
   - IVF
   - repeat lactate
   .
   # Alzheimer's:
   - continue donepezil, mirtazapine, and memantine
   .
   # FEN: IVFs / replete lytes prn / NPO for now
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL, discussed with family
   # CONTACT:  [**Name (NI) **]
   # ICU CONSENT:
   # DISPO: ICU for now, will call out later if stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-3-7**] 07:44 AM
   Arterial Line - [**2127-3-7**] 11:57 AM
   Multi Lumen - [**2127-3-7**] 07:05 PM
   20 Gauge - [**2127-3-7**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2127-03-08 12:24:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 7585**] for key portions of the services provided.
   HPI:
   [**Age over 90 **]F with AD, presented with n, v, diarrhea, syncope, here with sepsis
   likely from PNA:
   24 Hour Events:
   -hypotensive, initially fluid responsive; then required CVL and norepi
   x 2 hours.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Mercury
   Ammoniated
   Unknown;
   Shellfish
   Hives;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2127-3-7**] 06:00 PM
   Vancomycin - [**2127-3-7**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2127-3-7**] 06:45 PM
   Heparin Sodium (Prophylaxis) - [**2127-3-8**] 07:59 AM
   Other medications:
   mirtaz, donapezil, namentadine, sqh, vanco po, vanco iv, tylenol prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Diarrhea
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Psychiatric / Sleep: No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-3-8**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.8
C (100.1
   HR: 96 (85 - 103) bpm
   BP: 144/64(92) {78/38(52) - 144/64(93)} mmHg
   RR: 20 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,876 mL
                                                                    303 mL
   PO:
                                                                    680 mL
                                                                    230 mL
   TF:
   IVF:
                                                                  4,196 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,559 mL
                                                                  1,020 mL
   Urine:
                                                                  1,259 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,317 mL
                                                                   -717 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.38/36/82.[**Numeric Identifier **]/20/-2
   Physical Examination
   General Appearance: Elderly woman, lying in bed in NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior), minimal wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   205 K/uL
   102 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.5 mEq/L
   14 mg/dL
   110 mEq/L
   137 mEq/L
   30.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2127-3-7**]  01:03 PM
                             [**2127-3-7**]  05:27 PM
                             [**2127-3-8**]  04:22 AM
                             [**2127-3-8**]  04:38 AM
   WBC
   6.9
   5.8
   Hct
   27.8
   30.1
   Plt
   215
   205
   Cr
   1.0
   1.0
   TropT
   <0.01
   TCO2
   22
   Glucose
   99
   102
   Other labs: CK / CKMB / Troponin-T:158/4/<0.01, Amylase / Lipase:/854,
   Lactic Acid:0.7 mmol/L, Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: cxr: none new
   ctap:
   IMPRESSION:
   1. Pancreatic ductal dilatation, of unknown etiology. MRCP is
   recommended
   for further evaluation.
   2. Extensive diverticulosis.
   3. Anterior abdominal wall fat-containing hernia.
   4. Hiatal hernia.
   5. Bibasilar atelectasis with likely aspiration.
   Microbiology: neg
   Assessment and Plan
   92F with mild dementia, presented with n/v/d, likely aspiration, here
   with sepsis of unclear etiology, now improved with abx:
   Septic shock.  Pneumonia / aspiration.
   -cont abx for cap, though pna mild radiographically seems unlikely
   cause of shock
   -check viral swabs as now reporting URI / viral sx.  (precautions)
   - Volume resuscitated, brief pressor requirement
   - Await cultures.
   Nausea / vomiting / diarrhea: resolving, despite rising lipase.  CT abd
   / pelvis with contrast with no evidence pancreatitis, mild ductal
   dilation.
   -cont vancomycin po as ppx given h/o CDiff
   ICU Care
   Nutrition:
   Po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-3-7**] 07:44 AM
   Arterial Line - [**2127-3-7**] 11:57 AM
   Multi Lumen - [**2127-3-7**] 07:05 PM
   20 Gauge - [**2127-3-7**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU, floor if remains off vasopressors
   Total time spent: 35 minutes
   Patient is critically ill

2127-03-09 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Episode of hypotension mid-day, fluid responsive
   - Hypertensive o/n
   - Continuing diarrhea
   History obtained from Patient
   Allergies:
   History obtained from PatientMercury
   Ammoniated
   Unknown;
   Shellfish
   Hives;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2127-3-8**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-3-8**] 04:17 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-3-8**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-3-9**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37
C (98.6
   HR: 85 (84 - 105) bpm
   BP: 126/53(79) {100/47(67) - 171/78(115)} mmHg
   RR: 15 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,023 mL
                                                                     57 mL
   PO:
                                                                    230 mL
             TF:
   IVF:
                                                                    793 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                  1,320 mL
   Urine:
                                                                  1,920 mL
                                                                  1,320 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -1,397 mL
                                                                 -1,263 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   GENERAL: elderly woman lying in bed in NAD
   Neuro: conversant
   HEENT: EOMI, OP moist, no lesion
   CARDIAC: JVP not distended, normal S1/S2, [**3-15**] pansystolic murmur
   loudest at RUSB with radition to both carotids
   LUNG: bibasilar crackles, no wheezing, good aeration bilaterally
   ABDOMEN: soft, NT, ND, bowel sounds present
   EXT: no c/c/e
   Labs / Radiology
   173 K/uL
   9.4 g/dL
   104 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.2 mEq/L
   10 mg/dL
   110 mEq/L
   139 mEq/L
   27.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2127-3-7**]  01:03 PM
                             [**2127-3-7**]  05:27 PM
                             [**2127-3-8**]  04:22 AM
                             [**2127-3-8**]  04:38 AM
                             [**2127-3-9**]  03:36 AM
   WBC
   6.9
   5.8
   5.5
   Hct
   27.8
   30.1
   27.7
   Plt
   [**Telephone/Fax (3) 11273**]
   Cr
   1.0
   1.0
   1.0
   TropT
   <0.01
   TCO2
   22
   Glucose
   99
   102
   104
   Other labs: PT / PTT / INR:12.8/32.8/1.1, CK / CKMB /
   Troponin-T:158/4/<0.01, Amylase / Lipase:/854, Lactic Acid:0.7 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPOTENSION (NOT SHOCK)
   [**Age over 90 **]-year-old woman with history of Alzheimer's, OA, osteopenia, prior C.
   diff infection presented from home with multiple episodes of nausea,
   vomiting, loose stools, syncope.  Stable overnight with only 1
   transient episode of hypotension.
   # Sepsis:  PNA  (aspiration) vs abdominal source.  Currently continuing
   7 day course of PNA, ppx Vanc for C.diff. Hypotensive last night but
   currently resolved after IVF.  Lactates normalized.  Viral swab
   negative
   - continue broad-spectrum antibiotics with Zosyn/vanc 7 days total
   - may need MRCP in the future
   - IVF prn
   - sputum cx
   - f/u blood cx, urine cx
   - treat possible pna as below - check C. diff toxin
   - Continue PO Vanc 125mg for 5 days after
   # Syncope: with prodromal symptoms, making arrhythmias less likely.
   Likely from vomiting leading to hypovolemia leading to CNS
   hypoperfusion. Given murmur, would like to rule out bad AS.
   - treat possible underlying pathologies as above
   - check echocardiogram
 not done yesterday, needs to be followed up
   today
   # Acute kidney injury: improved to baseline today, resolved
   # Alzheimer's:
   - continue donepezil, mirtazapine, and memantine
   # FEN: IVFs / replete lytes prn /S&S evaluation
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL, discussed with family
   # CONTACT:  [**Name (NI) **]
   # DISPO:  call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-3-7**] 07:44 AM
   Arterial Line - [**2127-3-7**] 11:57 AM
   Multi Lumen - [**2127-3-7**] 07:05 PM
   20 Gauge - [**2127-3-7**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2127-03-09 11:13:00 Physician Attending Progress Note
Chief Complaint: sepsis, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]F with mild AD, prior C. diff infection, came to ICU with hypotension
   of unclear etiology, likely PNA, now much improved:
   24 Hour Events:
   - hypertensive overnight
                                     History obtained from Patient
   Allergies:
   Mercury
   Ammoniated
   Unknown;
   Shellfish
   Hives;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2127-3-8**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-3-9**] 08:17 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-3-9**] 08:29 AM
   Other medications:
   mirtaz, aracept, mement, sqh, vanco iv, vanco po, pip/tazo
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, Diarrhea
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Psychiatric / Sleep: No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-3-9**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 102 (84 - 105) bpm
   BP: 133/64(91) {100/47(67) - 171/78(115)} mmHg
   RR: 21 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,023 mL
                                                                    509 mL
   PO:
                                                                    230 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    793 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                  1,880 mL
   Urine:
                                                                  1,920 mL
                                                                  1,680 mL
   NG:
   Stool:
                                                                    500 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,397 mL
                                                                 -1,371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   posterior)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   173 K/uL
   104 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.2 mEq/L
   10 mg/dL
   110 mEq/L
   139 mEq/L
   27.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2127-3-7**]  01:03 PM
                             [**2127-3-7**]  05:27 PM
                             [**2127-3-8**]  04:22 AM
                             [**2127-3-8**]  04:38 AM
                             [**2127-3-9**]  03:36 AM
   WBC
   6.9
   5.8
   5.5
   Hct
   27.8
   30.1
   27.7
   Plt
   [**Telephone/Fax (3) 11273**]
   Cr
   1.0
   1.0
   1.0
   TropT
   <0.01
   TCO2
   22
   Glucose
   99
   102
   104
   Other labs: PT / PTT / INR:12.8/32.8/1.1, CK / CKMB /
   Troponin-T:158/4/<0.01, Amylase / Lipase:/854, Lactic Acid:0.7 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Imaging: TTE: not done yet
   Microbiology: viral swab neg
   mrsa swab positive
   Assessment and Plan
   92F with mild AD, prior C. diff infection, came to ICU with hypotension
   of unclear etiology, likely PNA, now much improved. Her hypotension has
   resolved, although diarrhea persists. C. diff negative.
   Will plan to continue to treat with vancomycin and zosyn for 7 days for
   severe PNA
 no cultures available to modify therapy. Will recheck
   c.diff again given persistent diarrhea, though maybe related to the
   antibiotics.
   PT consulted.
   ICU Care
   Nutrition: dysphagea diet per speech and swallow recs.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2127-3-7**] 07:44 AM
   Arterial Line - [**2127-3-7**] 11:57 AM
   Multi Lumen - [**2127-3-7**] 07:05 PM
   20 Gauge - [**2127-3-7**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2127-03-10 06:56:00 Physician Resident Progress Note
Chief Complaint: none
   24 Hour Events:
 MULTI LUMEN - STOP [**2127-3-9**] 08:12 PM
 ARTERIAL LINE - STOP [**2127-3-9**] 08:14 PM
   - called out, awaiting bed
   - a-line removed
   - C. diff negative again (2nd negative sample)
   Allergies:
   Mercury
   Ammoniated
   Unknown;
   Shellfish
   Hives;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2127-3-9**] 12:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-3-9**] 04:25 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-3-9**] 10:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-3-10**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.2
C (97.2
   HR: 87 (82 - 105) bpm
   BP: 144/72(92) {122/43(64) - 172/77(100)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,326 mL
                                                                    169 mL
   PO:
                                                                    800 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    526 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    330 mL
   Urine:
                                                                  2,860 mL
                                                                    330 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                 -1,884 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   GENERAL: elderly woman lying in bed in NAD
   Neuro: conversant
   HEENT: EOMI, OP moist, no lesion
   CARDIAC: JVP not distended, normal S1/S2, [**3-15**] pansystolic murmur
   loudest at RUSB with radition to both carotids
   LUNG: bibasilar crackles, no wheezing, good aeration bilaterally
   ABDOMEN: soft, NT, ND, bowel sounds present
   EXT: no c/c/e
   Labs / Radiology
   173 K/uL
   9.4 g/dL
   104 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.2 mEq/L
   10 mg/dL
   110 mEq/L
   139 mEq/L
   27.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2127-3-7**]  01:03 PM
                             [**2127-3-7**]  05:27 PM
                             [**2127-3-8**]  04:22 AM
                             [**2127-3-8**]  04:38 AM
                             [**2127-3-9**]  03:36 AM
   WBC
   6.9
   5.8
   5.5
   Hct
   27.8
   30.1
   27.7
   Plt
   [**Telephone/Fax (3) 11273**]
   Cr
   1.0
   1.0
   1.0
   TropT
   <0.01
   TCO2
   22
   Glucose
   99
   102
   104
   Other labs: PT / PTT / INR:12.8/32.8/1.1, CK / CKMB /
   Troponin-T:158/4/<0.01, Amylase / Lipase:/854, Lactic Acid:0.7 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPOTENSION (NOT SHOCK)
   [**Age over 90 **]-year-old woman with history of Alzheimer's, OA, osteopenia, prior C.
   diff infection presented from home with multiple episodes of nausea,
   vomiting, loose stools, syncope.
   # Pneumonia: with septic picture on admission: most likely due to PNA
   (?aspiration). Unlikely from abdominal source given no abdominal exam
   and unremarkable abdominal imaging studies. Viral swab negative.
   - continue pip-tazo and vancomycin for 7 days total (today is day 4)
   - f/u sputum cx, blood cx, urine cx
   - continue PO vanc 125mg for 5 days after abx for C. diff prophylaxis
   # Acute kidney injury: improved to baseline today, resolved
   # Alzheimer's:
   - continue donepezil, mirtazapine, and memantine
   # FEN: IVFs / replete lytes prn /S&S evaluation
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL, discussed with family
   # CONTACT:  [**Name (NI) **]
   # DISPO:  awaiting floor bed
   ICU Care
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-3-9**] 09:33 PM